US08258131B2
Preparation of N-[4-(4-chlorophenyl)-2.2-dimethyl-2H-1,3-benzoxazin-7-yl]methanesulfonamide
Methanesulfonyl chloride (55 μL) and pyridine (85 μL) were added dropwise to a solution of 4-(4-chlorophenyl)-2.2-dimethyl-2H-1,3-benzoxazin-7-ylamine (a compound of Reference Example 1, 101 mg) in chloroform (8 mL) and said mixture was stirred at room temperature for 2 days. The reaction solution was purified by column chromatography on silica gel (Chromatorex NH-silica gel, FUJI SILYSIA CHEMICAL LTD., Solvent: chloroform/methanol=100/0 to 90/10) and the obtained powder was suspended in diisopropyl ether. The resultant precipitates were collected by filtration and washed with diisopropyl ether to give the titled compound (112 mg) as a colorless powder.

reactant | Methanesulfonyl chloride | 55 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 85 μL | N1=CC=CC=C1 | C5H5N
reactant | 4-(4-chlorophenyl)-2.2-dimethyl-2H-1,3-benzoxazin-7-ylamine | ClC1=CC=C(C=C1)C1=NC(OC2=C1C=CC(=C2)N)(C)C | C16H15ClN2O
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(4-chlorophenyl)-2.2-dimethyl-2H-1,3-benzoxazin-7-yl]methanesulfonamide | 112 mg | ClC1=CC=C(C=C1)C1=NC(OC2=C1C=CC(=C2)NS(=O)(=O)C)(C)C | C17H17ClN2O3S
